US04666923
(b) 6-Amino-3-(2-methylpropyl)-5-nitroindolin-2-one
A solution of 2.9 g. (0.01 mol) 6-acetamido-3-(2-methylpropyl)-5-nitroindolin-2-one in 50 ml. ethanol is heated under reflux for about 30 minutes with 3 ml. concentrated hydrochloric acid, evaporated and the residue purified on silica gel (elution agent: methylene chloride/ammonia-saturated methanol 20:1 v/v). Yield: 1.5 g. (60% of theory).

reactant | 6-acetamido-3-(2-methylpropyl)-5-nitroindolin-2-one | 0.01 mol | C(C)(=O)NC1=C(C=C2C(C(NC2=C1)=O)CC(C)C)[N+](=O)[O-] | C14H17N3O4
solvent | ethanol | C(C)O | C2H6O
product | 6-Amino-3-(2-methylpropyl)-5-nitroindolin-2-one | NC1=C(C=C2C(C(NC2=C1)=O)CC(C)C)[N+](=O)[O-] | C12H15N3O3
